US07582631B2
(S)-{4-[5-(5-(2,2,2-Trifluoro-1-methyl-ethyl)-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine
A solution of 40 mg (0.098 mmol) {4-[5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine in 1 mL chloroform was treated with 1 mL (large excess) trifluoracetone and 62 mg (0.29 mmol) NaBH3(CN), followed by addition of 1 mL methanol. The mixture was stirred at ambient temperature for 15 h when it was quenched before complete conversion to product. The reaction mixture was diluted with 20 mL DCM, washed with 20 mL satd. NaHCO3, and dried over anhydrous Na2SO4. After purification by chromatography, the title compound was obtained as a mixture of diasteriomers (9:1 by HPLC). MS (ES+): 508 (M+H)+.

reactant | {4-[5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | 0.098 mmol, 40 mg | C12N(CC(NC1)C2)C2=NC(=CC=1N2C=CN1)C1=CC(=NC=C1)NC(C)C1=CC=CC=C1 | C24H25N7
reactant | trifluoracetone | 1 mL | FC(C(C)=O)(F)F | C3H3F3O
reactant | methanol | 1 mL | CO | CH4O
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | (S)-{4-[5-(5-(2,2,2-Trifluoro-1-methyl-ethyl)-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | FC(C(C)N1[C@@H]2CN([C@H](C1)C2)C2=NC(=CC=1N2C=CN1)C1=CC(=NC=C1)N[C@@H](C)C1=CC=CC=C1)(F)F | C27H28F3N7
